US05837711
Synthesis of (3R,4S,5S,6S)-6-Diphenylmethyl-5-(-2-methoxy-5-methylsulfonylbenzyl-amino)-1-azabicyclo[2.2.2]octane-3-carboxamide dihydrochloride
A mixture of 5-methylsulfonyl-o-anisaldehyde (364 mg,1.7 mmol), (3R,4S,5S,6S)-5-amino-6-diphenylmethyl-1-azabicyclo[2.2.2]octane-3-carboxamide (500 mg, 1.50 mmol) and NaBH(Oac)3 (636 mg, 3.0 mmol) in CH2Cl2 (10 ml) was stirred at room temperature for 3 hr. The reaction mixture was extracted with CH2Cl2 (300 ml), washed with NaHCO3 aqueous solution and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel chromatography. The resulted product was diluted with HCl/methanol (15 ml), stirred for 30 min and the white precipitate (appeared during the reaction) was collected by filtration to afford a titled compound (589 mg, 58.2%) as a white crystalline.

reactant | 5-methylsulfonyl-o-anisaldehyde | 1.7 mmol, 364 mg | CS(=O)(=O)C1=CC=C(C(C=O)=C1)OC | C9H10O4S
reactant | (3R,4S,5S,6S)-5-amino-6-diphenylmethyl-1-azabicyclo[2.2.2]octane-3-carboxamide | 1.50 mmol, 500 mg | N[C@H]1[C@@H]2[C@H](CN([C@H]1C(C1=CC=CC=C1)C1=CC=CC=C1)CC2)C(=O)N | C21H25N3O
reactant | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (3R,4S,5S,6S)-6-Diphenylmethyl-5-(-2-methoxy-5-methylsulfonylbenzyl-amino)-1-azabicyclo[2.2.2]octane-3-carboxamide dihydrochloride | 589 mg, 58.2% | Cl.Cl.C1(=CC=CC=C1)C([C@H]1[C@H]([C@@H]2[C@H](CN1CC2)C(=O)N)NCC2=C(C=CC(=C2)S(=O)(=O)C)OC)C2=CC=CC=C2 | InChI=1S/C30H35N3O4S.2ClH/c1-37-26-14-13-23(38(2,35)36)17-22(26)18-32-28-24-15-16-33(19-25(24)30(31)34)29(28)27(20-9-5-3-6-10-20)21-11-7-4-8-12-21;;/h3-14,17,24-25,27-29,32H,15-16,18-19H2,1-2H3,(H2,31,34);2*1H/t24-,25-,28-,29-;;/m0../s1
